US07504508B2
Methyl 4-(4-{[(2S,4R)-4-[(4-chlorophenyl)(cyclopropylcarbonyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)-2,2-dimethylbutanoate (100 mg, 0.17 mmol, 1 equ.) was dissolved in methanol/tetrahydrofuran (2/1) (1 ml). A solution of sodium hydroxide (21 mg, 0.51 mmol, 3 eq.) in water (0.5 ml) was added and reaction mixture heated to 40° C. for 2 h. The mixture was concentrated and the residue was acidified with a 1N HCl aqueous solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated to give the crude acid. Purification by silica gel chromatography (methylene chloride/methanol 98/2) gave pure 4-(4-{[(2S,4R)-4-[(4-chlorophenyl)(cyclopropylcarbonyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)-2,2-dimethylbutanoic acid (85 mg, 87%).

reactant | Methyl 4-(4-{[(2S,4R)-4-[(4-chlorophenyl)(cyclopropylcarbonyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)-2,2-dimethylbutanoate | 0.17 mmol, 100 mg | ClC1=CC=C(C=C1)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OCCC(C(=O)OC)(C)C)C=C1)C)C(=O)C1CC1 | C34H37ClN2O5
reactant | sodium hydroxide | 0.51 mmol, 21 mg, 3 eq. | [OH-].[Na+]
solvent | methanol tetrahydrofuran | 1 ml | CO.O1CCCC1
solvent | water | 0.5 ml | O | H2O
product | 4-(4-{[(2S,4R)-4-[(4-chlorophenyl)(cyclopropylcarbonyl)amino]-2-methyl-3,4-dihydroquinolin-1(2H)-yl]carbonyl}phenoxy)-2,2-dimethylbutanoic acid | 85 mg, 87% | ClC1=CC=C(C=C1)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OCCC(C(=O)O)(C)C)C=C1)C)C(=O)C1CC1 | C33H35ClN2O5
